US04298529
Trifluoroacetic anhydride (0.5 ml.) was added to a solution of 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 180 mg.) in dry tetrafuran (10 ml.) and stirred at room temperature for 10 minutes. Triethylamine (0.2 ml.) was added to the resultant solution and stirred at room temperature for 10 minutes. Ethyl acetate was added to the solution and adjusted to pH 2.0 with 6 N hydrochloric acid. The solution was washed with water and a sodium chloride saturated aqueous solution successively and dried over magnesium sulfate. After the solution was concentrated in vacuo, the residue was pulverized with diisopropyl ether to give 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 171.5 mg.).

reactant | Trifluoroacetic anhydride | 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 180 mg | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)=O | C12H14BrN3O7S
reactant | Triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2-methoxyimino-3-oxo-4-bromobutyramido)-3-cephem-4-carboxylic acid | 171.5 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
